US05994378
A solution of ethyl 5-tert-butylindole-2-carboxylate (3.0 g) and 1N sodium hydroxide solution into a mixed solvent of tetrahydrofuran (20 ml) and methanol (10 ml) was stirred at 40° C. for 5 hours. After removal of solvent, the resulting aqueous solution was made acidic with diluted hydrochloric acid. The resulting precipitates were collected by filtration and washed with water to give 5-tert-butylindole-2-carboxylic acid (2.47 g).

reactant | ethyl 5-tert-butylindole-2-carboxylate | 3.0 g | C(C)(C)(C)C=1C=C2C=C(NC2=CC1)C(=O)OCC | C15H19NO2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 5-tert-butylindole-2-carboxylic acid | 2.47 g | C(C)(C)(C)C=1C=C2C=C(NC2=CC1)C(=O)O | C13H15NO2
